US08536179B2
a) 4-Bromo-1-(1-methylethyl)-6-(trifluoromethyl)-1H-indole
To a solution of 4-bromo-6-(trifluoromethyl)-1H-indole (1 g, 3.79 mmol) in DMF (6 mL) was added 60% sodium hydride (0.182 g, 4.54 mmol), and the mixture was stirred for 30 min. 2-bromopropane (0.533 mL, 5.68 mmol) was added and the mixture was stirred overnight. The reaction was then quenched with 10% NaHCO3 and extracted with EtOAc (3×). The extract was dried over Na2SO4 and concentrated. The residue was purified using column chromatography (Silica gel, 0 to 100% EtOAc/hexanes) to give the title compound (460 mg, 40%) as white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.56-1.61 (m, 6H), 4.66-4.79 (m, 1H), 6.65 (d, J=3.03 Hz, 1H), 7.27-7.31 (m, 1H), 7.45 (d, J=3.03 Hz, 1H), 7.54 (s, 1H), 7.63 (s, 1H). MS: (M+H)+=306.2.

reactant | 4-bromo-6-(trifluoromethyl)-1H-indole | 3.79 mmol, 1 g | BrC1=C2C=CNC2=CC(=C1)C(F)(F)F | C9H5BrF3N
reactant | sodium hydride | 4.54 mmol, 0.182 g | [H-].[Na+]
reactant | 2-bromopropane | 5.68 mmol, 0.533 mL | BrC(C)C | C3H7Br
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 4-Bromo-1-(1-methylethyl)-6-(trifluoromethyl)-1H-indole | 460 mg, 40% | BrC1=C2C=CN(C2=CC(=C1)C(F)(F)F)C(C)C | C12H11BrF3N
